US07977352B2
Using the method described above for the synthesis of 4-(4-isopentylpiperazin-1-yl)aniline, treatment of 1-cyclohexyl-4-(4-nitrophenyl)piperazine (1.0 g, 3.46 mmol) with H2 and 10% Pd/C provided crude 4-(4-cyclohexylpiperazin-1-yl)aniline (0.89 g, 89% recovery, 78% purity as determined by LC/MS analysis @ UV 254 nm detection). The crude product is used in the next step without further purification. LCMS-ESI (m/z): calcd for C16H25N3, 259; [M+H]+ found, 260.

reactant | 4-(4-isopentylpiperazin-1-yl)aniline | C(CC(C)C)N1CCN(CC1)C1=CC=C(N)C=C1 | C15H25N3
reactant | 1-cyclohexyl-4-(4-nitrophenyl)piperazine | 3.46 mmol, 1.0 g | C1(CCCCC1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H23N3O2
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-cyclohexylpiperazin-1-yl)aniline | 0.89 g | C1(CCCCC1)N1CCN(CC1)C1=CC=C(N)C=C1 | C16H25N3
